US09260427B2
Prepared using General Procedure 8. To a stirred solution of (R)-tert-butyl 2-((S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanamido)propanoate (120 mg, 0.166 mmol) in DCM (4 mL) was added TFA (3 mL) and stirred for 2 h. The reaction mixture was diluted with toluene (15 mL) and solvent removed. DMSO (3 mL) was added and the solution was sonicated. This solution was added to vigorously stirring water (30 mL) and the white solid was isolated by filtration and washed with additional ACN (10 mL). The material was dried under high vacuum for 24 h to afford 75 mg (66%) of (R)-2-((S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanamido)propanoic acid Compound 398 as a white powder. LCMS-ESI (m/z) calculated for C40H48N4O5: 664.4. found 665.0 [M+H]+, tR=12.33 min (Method 10). The chiral purity was calculated at >99% e.e. (Chiral Method). 1H NMR (400 MHz, DMSO-d6) δ 12.64 (s, 1H), 9.15 (s, 2H), 8.52 (d, J=8.7 Hz, 1H), 8.45 (d, J=7.4 Hz, 1H), 8.35-8.20 (m, 2H), 7.85-7.68 (m, 4H), 7.56-7.50 (m, 2H), 7.49-7.39 (m, 2H), 7.14-7.03 (m, 2H), 4.93-4.80 (m, 1H), 4.38-4.17 (m, 1H), 4.03 (t, J=6.5 Hz, 2H), 3.22-3.12 (m, 1H), 3.12-3.02 (m, 1H), 1.81-1.67 (m, 2H), 1.53-1.24 (m, 20H), 0.95-0.80 (m, 3H).

reactant | (R)-tert-butyl 2-((S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanamido)propanoate | 0.166 mmol, 120 mg | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)N[C@@H](C(=O)OC(C)(C)C)C)CC2=CC=C(C=C2)C2=NC=C(C=N2)C2=CC=C(C=C2)OCCCCCCC)C=C1 | C44H56N4O5
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-2-((S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanamido)propanoic acid | 75 mg, 66% | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)N[C@@H](C(=O)O)C)CC2=CC=C(C=C2)C2=NC=C(C=N2)C2=CC=C(C=C2)OCCCCCCC)C=C1 | C40H48N4O5
